US07834013B2
(+)-(Trans)-2-[2-chloro-4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxylic Acid (III-3f)
A solution of enantiomerically enriched-(trans)-ethyl-2-[2-chloro-4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxylate (III-2f) (0.269 g, 0.64 mmol) and 0.75 mL of 15% aqueous sodium hydroxide in 8 mL of methanol was heated at reflux for 1.5 hours. Methanol was evaporated and the residue was dissolved in water and acidified with concentrated hydrochloric acid. The resulting suspension was extracted with dichloromethane, the organic phase was washed with water and dried over anhydrous sodium sulfate and the solvent evaporated to give 0.217 g (86% yield) of the title compound as a white solid. NMR (400 MHz, CDCl3) δ 7.32 (t, J=7.33 Hz, 2H), 7.28 (t, J=7.69 Hz, 1H), 7.09 (t, J=6.41 Hz, 1H), 7.06 (d, J=7.87 Hz, 1H), 6.98 (d, J=7.51 Hz, 2H), 6.99 (m, 1H), 6.90 (dd, J=7.87 Hz, 1.65 Hz, 1H), 6.80 (d, J=8.42 Hz, 1H), 6.61 (d, J=2.56 Hz, 1H), 6.40 (dd, J=8.42 Hz, 2.38 Hz, 1H), 4.26 (s, 2H), 2.66 (m, 1H), 1.70 (m, 1H), 1.60 (m, 1H), 1.33 (m, 1H). ES-MS m/z 394 (MH)+. [α]25,D=+170° (chloroform, c=1.2). Product was determined to be 98% ee by chiral SFC according to Method 1.

reactant | (trans)-ethyl-2-[2-chloro-4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxylate | 0.64 mmol, 0.269 g | C(C)OC(=O)[C@H]1[C@@H](C1)C1=C(C=C(C=C1)NCC1=CC(=CC=C1)OC1=CC=CC=C1)Cl | C25H24ClNO3
reactant | sodium hydroxide | 0.75 mL | [OH-].[Na+]
solvent | methanol | 8 mL | CO | CH4O
product | (+)-(Trans)-2-[2-chloro-4-({[3-(phenyloxy)phenyl]methyl}amino)phenyl]cyclopropanecarboxylic Acid | 0.217 g, 86% yield | ClC1=C(C=CC(=C1)NCC1=CC(=CC=C1)OC1=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)O | C23H20ClNO3
